US07091363B2
Methyl (2S, 4R)-4-hydroxy-1-methyl-2-pyrrolidinecarboxylate hydrochloride (Steps C1 and C2)
Concentrated hydrochloric acid (3 mL) was added to a suspension of (2S, 4R)-4-hydroxy-1-methyl-2-pyrrolidinecarboxylic acid (3 g) in methanol (15 mL), and the mixture was refluxed for 4 hours. The solvent of the reaction mixture was removed by distillation under reduced pressure to give the title compound (4.0 g, yield 100%).

reactant | hydrochloric acid | 3 mL | Cl | ClH
reactant | (2S, 4R)-4-hydroxy-1-methyl-2-pyrrolidinecarboxylic acid | 3 g | O[C@@H]1C[C@H](N(C1)C)C(=O)O | C6H11NO3
reactant | methanol | 15 mL | CO | CH4O
product | Methyl (2S, 4R)-4-hydroxy-1-methyl-2-pyrrolidinecarboxylate hydrochloride | 4.0 g, yield 100% | Cl.O[C@@H]1C[C@H](N(C1)C)C(=O)OC | InChI=1S/C7H13NO3.ClH/c1-8-4-5(9)3-6(8)7(10)11-2;/h5-6,9H,3-4H2,1-2H3;1H/t5-,6+;/m1./s1
